US07414061B2
4-[1-(2-Ethoxy-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole
As described for Example 3, 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole (112.6 mg, 0.5 mmol) was converted, using 2-ethoxyphenylboronic acid instead of 4-fluorophenylboronic acid, to the title compound (21 mg, 12%) which was obtained as a white solid. MS (ESI): m/e=346.0 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 0.5 mmol, 112.6 mg | N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C13H11N3O
reactant | 2-ethoxyphenylboronic acid | C(C)OC1=C(C=CC=C1)B(O)O | C8H11BO3
product | 4-[1-(2-Ethoxy-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole | 21 mg, 12% | C(C)OC1=C(C=CC=C1)N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C21H19N3O2
